US04837236
3-(m-Phenoxyphenyl)-2-methyl-2-propenyl bromide (1.0 g) was added to 2,6-dimethylmorpholine (2.0 g) at 0° C. while stirring, followed by aging at the same temperature for 3 hours. Ice water (100 ml) and 15% aqueous sodium hydroxide solution (30 ml) were added to the resultant mixture to make basic, followed by extraction with ethyl acetate (50 ml×3). The extracts were combined together, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography to give 4-[3-(m-phenoxyphenyl)-2-methyl-2-propenyl]-2,6-dimethylmorpholine (cis-isomer, 0.3 g).

reactant | 3-(m-Phenoxyphenyl)-2-methyl-2-propenyl bromide | 1.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=C(CBr)C | C16H15BrO
reactant | 2,6-dimethylmorpholine | 2.0 g | CC1CNCC(O1)C | C6H13NO
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | 4-[3-(m-phenoxyphenyl)-2-methyl-2-propenyl]-2,6-dimethylmorpholine | 0.3 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=C(CN1CC(OC(C1)C)C)C | C22H27NO2
